US06294558B1
4-(Methylsulfonyl)-3-(trifluoromethyl)phenylhydrazine hydrochloride (step 3)
To a stirred suspension of 4-(methylsulfonyl)-3-(trifluoromethyl)aniline (1.04 g, 4.35 mmol) in conc. HCl (10 mL) was added dropwise a solution of sodium nitrate (0.315 g, 4.57 mmol) in water (10 mL) at −20° C. After stirring for 30 minutes, the resulting suspension was added Tin(II) chloride dihydrate (4.92 g, 21.8 mmol) in conc.HCl (10 mL) at −10° C. After stirring for 1 hour at −5° C., the mixture was stirred further 1 hour at room temperature. The reaction mixture was made alkaline with aqueous NaOH at 0-5° C. The mixture was filtered through Celite, the filterate was extracted with THF (30 mL×3), the combined organic layer washed with brine, dried over MgSO4 and concentration in vacuo to give the subtitle compound (1 g).

reactant | 4-(methylsulfonyl)-3-(trifluoromethyl)aniline | 4.35 mmol, 1.04 g | CS(=O)(=O)C1=C(C=C(N)C=C1)C(F)(F)F | C8H8F3NO2S
reactant | sodium nitrate | 4.57 mmol, 0.315 g | [N+](=O)([O-])[O-].[Na+]
reactant | Tin(II) chloride dihydrate | 21.8 mmol, 4.92 g | O.O.[Sn](Cl)Cl
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 10 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | HCl | 10 mL | Cl | ClH
product | 4-(Methylsulfonyl)-3-(trifluoromethyl)phenylhydrazine hydrochloride | 1 g | Cl.CS(=O)(=O)C1=C(C=C(C=C1)NN)C(F)(F)F | InChI=1S/C8H9F3N2O2S.ClH/c1-16(14,15)7-3-2-5(13-12)4-6(7)8(9,10)11;/h2-4,13H,12H2,1H3;1H
